US05726319
Step C: (R)-α-[(2-t-Butoxycarbonylamino-2-methyl-1-oxopropyl)amino]benzenebutanoic acid benzyl ester
D-Homophenylalanine benzyl ester (0.87 g; 3.23 mmol), triethylamine (900 ml) and N-(t-butoxycarbonyl)-α-methylalanine (656 mg; 3.23 mmol) were dissolved in dry methylene chloride (6.5 ml) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (BOP-reagent) (1.43 g; 3.23 mmol) was added with stirring in small batches over 10 minutes. The reaction mixture was stirred at room temperature for 2.5 h then quenched by adding saturated brine (25 ml). The two phase system was extracted with methylene chloride (3×25 ml) and the combined methylene chloride extracts dried over magnesium sulfate powder, filtered and evaporated on a rotary evaporator under reduced pressure to give a colorless oil that solidified to an off white solid on standing at room temperature. This solid material was taken up in the minimum volume of methylene chloride and chromatographed on silica gel using an eluant composed of ethyl acetate and hexanes in the ratio 1:3 v/v. The product was isolated after evaporation of the volatiles as a white solid. The yield of the desired product was 1.30 g (88.5%). FAB-MS: -calculated for C26H34N2O5 454.2; found 455.5 (M+1).

reactant | D-Homophenylalanine benzyl ester | 3.23 mmol, 0.87 g | C(C1=CC=CC=C1)OC([C@H](N)CCC1=CC=CC=C1)=O | C17H19NO2
reactant | triethylamine | 900 ml | C(C)N(CC)CC | C6H15N
reactant | N-(t-butoxycarbonyl)-α-methylalanine | 3.23 mmol, 656 mg | C(C)(C)(C)OC(=O)NC(C)(C(=O)O)C | C9H17NO4
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 3.23 mmol, 1.43 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | methylene chloride | 6.5 ml | C(Cl)Cl | CH2Cl2
product | (R)-α-[(2-t-Butoxycarbonylamino-2-methyl-1-oxopropyl)amino]benzenebutanoic acid benzyl ester | C(C1=CC=CC=C1)OC([C@@H](CCC1=CC=CC=C1)NC(C(C)(C)NC(=O)OC(C)(C)C)=O)=O | C26H34N2O5
